US04218476
(a) N-(5-hydroxy-3-thiapentyl)-N-methylmesitylenesulphonamide
17.6 g (0.04 mole) N-(2-hydroxyethyl)-N-methylmesitylenesulphonamide mesitylenesulphonate were added to a mixture of 7.8 g (0.1 mole) 2-hydroxyethanethiol, 2.3 g (0.1 mole) sodium and 200 ml ammonia, and then 50 ml dimethylformamide were added, the reaction vessel being cooled in an acetone-CO2 bath. The cooling bath was removed and the mixture was stirred at about 20° C. overnight. Water and diethyl ether was added and the aqueous phase was extracted with diethyl ether. The combined ether phases were washed with brine and dried with Na2SO4. Removal of the solvent in vacuum gave 12.3 g of an oil, which was used as such without further purification. NMR showed that it was the title compound.

reactant | N-(2-hydroxyethyl)-N-methylmesitylenesulphonamide mesitylenesulphonate | 0.04 mole, 17.6 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)O)C.OCCN(S(=O)(=O)C1=C(C=C(C=C1C)C)C)C
reactant | 2-hydroxyethanethiol | 0.1 mole, 7.8 g | OCCS | C2H6OS
reactant | sodium | 0.1 mole, 2.3 g | [Na] | Na
reactant | ammonia | 200 ml | N | H3N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(5-hydroxy-3-thiapentyl)-N-methylmesitylenesulphonamide | 12.3 g | OCCSCCN(S(=O)(=O)C1=C(C=C(C=C1C)C)C)C | C14H23NO3S2
